US06784167B2
A mixture of NaH2PO4 (37 g, 0.3 mol, 0.3 equiv) in water (330 mL) buffered to pH 2 with conc. HCl and H2O2 (30%, 112 mL, 1.1 mol, 1.1 equiv) was added to a solution of 3-(2-fluorophenyl)prop-2-ynal (151 g, 1.02 mol) in CH3CN (830 mL). The resulting mixture was cooled in an ice bath and was treated slowly with a solution of NaClO2 (102 g, 1.1 mol, 1.1 equiv) in water (1.1 L), keeping the temperature below 10° C. After 30 min a solution of NaClO2 (5.8 g, 64 mmol, 0.06 equiv) in water (50 mL) was added. After another 30 min the layers were separated and the aqueous layer was washed with EtOAc (3×500 mL). The organic layers were combined and back-extracted with a saturated NaHCO3 solution (3×500 mL). The aqueous layers were combined, acidified to pH 1 with conc. HCl and extracted with EtOAc (3×500 mL). The combined organic layers were washed with a saturated NaCl solution (1 L), dried (Na2SO4) and concentrated under reduced pressure to give 3-(2-fluorophenyl)prop-2-ynoic acid (144 g, 86%) as a yellow solid: TLC (1% AcOH/CH2Cl2) Rf 0.34; 1H NMR (CDCl3+d4-MeOH) δ 6.98-7.08 (m, 2H), 7.29-7.48 (m, 2H), 12.77 (br s, 1H); 13C NMR (CDCl3+d4-MeOH) δ 78.3, 85.7 (d, JC−F=2.5 Hz, 1C), 108.3 (d, JC−F=15.8 Hz, 1C), 115.4 (d, JC−F=20.7 Hz, 1C), 124.0, 132.1 (d, JC−F=7.3 Hz, 1C), 134.1 (d, JC−F=9.8 Hz, 1C), 135.2, 154.8, 163.1 (d, JC−F=256.1 Hz, 1C).

reactant | HCl | Cl | ClH
reactant | H2O2 | 1.1 mol, 112 mL, 1.1 equiv | OO | H2O2
reactant | 3-(2-fluorophenyl)prop-2-ynal | 1.02 mol, 151 g | FC1=C(C=CC=C1)C#CC=O | C9H5FO
reactant | NaClO2 | 1.1 mol, 102 g, 1.1 equiv | [O-]Cl=O.[Na+]
solvent | water | 330 mL | O | H2O
solvent | CH3CN | 830 mL | CC#N | C2H3N
solvent | water | 1.1 L | O | H2O
solvent | water | 50 mL | O | H2O
catalyst | NaClO2 | 64 mmol, 5.8 g, 0.06 equiv | [O-]Cl=O.[Na+]
product | 3-(2-fluorophenyl)prop-2-ynoic acid | 144 g, 86% | FC1=C(C=CC=C1)C#CC(=O)O | C9H5FO2
